US06825188B2
(d) (±)-2-(Carboxymethyl)-3-oxo-8-[3-(pyridin-2-ylamino)-1-propyloxy]-2,3,4,5-tetrahydro-1H-2-benzazepine-4-acetic acid
According to the procedure of Example 1(c) except substituting methyl (±)-2-(carboxymethyl)-3-oxo-8-[3-(pyridin-2-ylamino)-1-propyloxy]-2,3,4,5-tetrahydro-1H-2-benzazepine-4-acetate for the ethyl (±)-8-[3-(2-pyridylamino)-1-propyloxy]-3-oxo-2,3,4,5-tetrahydro-1H-2-benzazepine-4-acetate, the title compound (0.30 g, 56%) was prepared: MS (ES) m/e 428.4 (M+H)+. Anal. Calcd for C22H25N3O6.2 H2O: C, 57.01; H, 6.31; N, 9.07; Found: C, 57.27; H, 6.24; N, 8.86.

reactant | methyl (±)-2-(carboxymethyl)-3-oxo-8-[3-(pyridin-2-ylamino)-1-propyloxy]-2,3,4,5-tetrahydro-1H-2-benzazepine-4-acetate | C(=O)(O)CN1CC2=C(CC(C1=O)CC(=O)OC)C=CC(=C2)OCCCNC2=NC=CC=C2 | C23H27N3O6
reactant | ethyl (±)-8-[3-(2-pyridylamino)-1-propyloxy]-3-oxo-2,3,4,5-tetrahydro-1H-2-benzazepine-4-acetate | N1=C(C=CC=C1)NCCCOC1=CC2=C(CC(C(NC2)=O)CC(=O)OCC)C=C1 | C22H27N3O4
solvent | H2O | O | H2O
product | (±)-2-(Carboxymethyl)-3-oxo-8-[3-(pyridin-2-ylamino)-1-propyloxy]-2,3,4,5-tetrahydro-1H-2-benzazepine-4-acetic acid | 0.30 g, 56% | C(=O)(O)CN1CC2=C(CC(C1=O)CC(=O)O)C=CC(=C2)OCCCNC2=NC=CC=C2 | C22H25N3O6
